US04085094
1-Butoxycarbonylsulfenyl chloride, with a boiling point of 83°-90° C. at 13 mm., was prepared in 84.3% yield by a procedure analogous to that described for methoxycarbonylsulfenyl chloride in Example I by reacting equimolar quantities of 1-butanol and chlorocarbonylsulfenyl chloride. To a stirred solution of 8.4 grams (0.05 mole) of 1-butoxycarbonylsulfenyl chloride and 25 milliliters of hexane was added dropwise with stirring and under nitrogen at 0° C., 4.4 grams (0.025 mole) of 1,8-octanedithiol dissolved in 25 milliliters of hexane. After allowing the solution to warm to room temperature, the solution was concentrated under reduced pressure to give 10.9 grams (98.2%) of 1,8-bis(1-butoxycarbonyldithio)-octane as a pale yellow liquid.

reactant | 1-Butoxycarbonylsulfenyl chloride | C(CCC)OC(=O)SCl | C5H9ClO2S
reactant | methoxycarbonylsulfenyl chloride | COC(=O)SCl | C2H3ClO2S
reactant | chlorocarbonylsulfenyl chloride | ClC(=O)SCl | CCl2OS
reactant | 1-butoxycarbonylsulfenyl chloride | 0.05 mole, 8.4 grams | C(CCC)OC(=O)SCl | C5H9ClO2S
reactant | 1,8-octanedithiol | 0.025 mole, 4.4 grams | C(CCCCCCCS)S | C8H18S2
reactant | hexane | 25 milliliters | CCCCCC | C6H14
reactant | hexane | 25 milliliters | CCCCCC | C6H14
solvent | 1-butanol | C(CCC)O | C4H10O
product | 1,8-bis(1-butoxycarbonyldithio)-octane | 10.9 grams, 98.2% | C(CCC)OC(=O)SSCCCCCCCCSSC(=O)OCCCC | C18H34O4S4
